US09290511B2
Ethyl 2-amino-4-(2-methoxyphenyl)thiophene-3-carboxylate (1 g, 3.606 mmol), cyclopropanecarboxamide (0.3069 g, 3.606 mmol) and phosphorous (V) trichloride (0.6723 mL, 7.212 mmol) were combined and heated to 100° C. over the weekend in a Reactivial. The reaction mixture was diluted with DCM (25 mL), washed with water (2×25 mL), dried over Na2SO4 and concentrated at reduced pressure. The resulting residue was purified by flash chromatography, eluting with a gradient of petroleum ether to 50/50 petroleum ether/ethyl acetate to afford 4-chloro-2-cyclopropyl-5-(2-methoxyphenyl)thieno[2,3-d]pyrimidine (0.51 g). LCMS: purity 100%, RT=4.63 min, M+1=317.0

reactant | Ethyl 2-amino-4-(2-methoxyphenyl)thiophene-3-carboxylate | 3.606 mmol, 1 g | NC=1SC=C(C1C(=O)OCC)C1=C(C=CC=C1)OC | C14H15NO3S
reactant | cyclopropanecarboxamide | 3.606 mmol, 0.3069 g | C1(CC1)C(=O)N | C4H7NO
reactant | phosphorous (V) trichloride | 7.212 mmol, 0.6723 mL | [P+2](Cl)(Cl)Cl
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-cyclopropyl-5-(2-methoxyphenyl)thieno[2,3-d]pyrimidine | 0.51 g | ClC=1C2=C(N=C(N1)C1CC1)SC=C2C2=C(C=CC=C2)OC | C16H13ClN2OS
